US06667342B1
4-(2-Hydroxyethylamino)aniline
A mixture of ethanolamine (2.29 g, 37.5 mmol) and 1-fluoro-4-nitrobenzene (3.53 g, 25.0 mmol) in dimethylsulphoxide (25 ml) was treated with potassium carbonate (6.9 g, 50 mmol) and heated at 90° C. overnight. The mixture was cooled and poured onto water (250 ml), the precipitated solid filtered off, dried, dissolved in ethanol (50 ml) and hydrogenated over 10% Pd/C for 4 h at ambient temperature . The catalyst was removed by filtration, the ethanol evaporated and the residue purified by column chromatography using EtOAc to yield the title compound (740 mg, 5.0 mmol). NMR: 2.95 (t, 2H), 3.5 (t, 2H), 4.1 (s, 2H), 4.4 (s, 1H), 4.55 (t, 1H), 6.4 (m, 4H); MS: 153 (M+H)+.

reactant | ethanolamine | 37.5 mmol, 2.29 g | C(O)CN | C2H7NO
reactant | 1-fluoro-4-nitrobenzene | 25.0 mmol, 3.53 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | 4-(2-Hydroxyethylamino)aniline | 5.0 mmol, 740 mg | OCCNC1=CC=C(N)C=C1 | C8H12N2O
